US05851546
Methacryloyl chloride was reacted with 6-amino caproic acid to give N-methacryloyl 6-amino caproic acid. This was then esterified with p-nitrophenol using standard synthetic methods to give N-methacryloyl 6-amino caproyl p-nitrophenol. 0.5 gm (0.0018 mol) N-isobutyryl 6-amino osproyl 2-amino pyridine, 0.4 gm N-methacryloyl histidine and 0.1071 gm CoCl2.6H2O were dissolved in 5 ml methanol and stirred for 1 hour. Methanol was then removed under reduced pressure. This was further diluted with 3.5 gm 2-hydroxyethyl methacrylate and 0.5 ml ethylene glycol dimethacrylate, and 100 mg azobisisobutyronitrile.

reactant | Methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | 6-amino caproic acid | NCCCCCC(=O)O | C6H13NO2
product | N-methacryloyl 6-amino caproic acid | C(C(=C)C)(=O)NCCCCCC(=O)O | C10H17NO3
